US07247748B2
e) (R)-2-(3-{3-[[2Chloro-3-(trifluoromethyl)benzyl](2,2-diphenylethyl)amino]-3-methyl-propoxy}-phenyl)acetic acid hydrochloride salt
Following the procedure of Example 44 step(e) except (R)-2-(3-{3-[[2-chloro-3-(trifluoromethyl)benzyl](2,2-diphenylethyl)amino]-3-methyl-propoxy}-phenyl)acetic acid methyl ester was used in step 44(e) instead of (R)-2-(3-{3-[[2-chloro-3-(trifluoromethyl)benzyl](2,2-diphenylethyl)amino]-2-methyl-propoxy}-phenyl)acetic acid methyl ester the title compound was isolated to give a white solid (100 mg, 89%). MS(ESI) 596.0 (M+).

reactant | (R)-2-(3-{3-[[2-chloro-3-(trifluoromethyl)benzyl](2,2-diphenylethyl)amino]-3-methyl-propoxy}-phenyl)acetic acid methyl ester | COC(CC1=CC(=CC=C1)OCC[C@@H](C)N(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)=O | C35H35ClF3NO3
reactant | (R)-2-(3-{3-[[2-chloro-3-(trifluoromethyl)benzyl](2,2-diphenylethyl)amino]-2-methyl-propoxy}-phenyl)acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC[C@@H](CN(CC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=C(C(=CC=C1)C(F)(F)F)Cl)C)=O | C35H35ClF3NO3
product | (R)-2-(3-{3-[[2Chloro-3-(trifluoromethyl)benzyl](2,2-diphenylethyl)amino]-3-methyl-propoxy}-phenyl)acetic acid hydrochloride salt | Cl.ClC1=C(CN([C@@H](CCOC=2C=C(C=CC2)CC(=O)O)C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1C(F)(F)F | InChI=1S/C34H33ClF3NO3.ClH/c1-24(18-19-42-29-16-8-10-25(20-29)21-32(40)41)39(22-28-15-9-17-31(33(28)35)34(36,37)38)23-30(26-11-4-2-5-12-26)27-13-6-3-7-14-27;/h2-17,20,24,30H,18-19,21-23H2,1H3,(H,40,41);1H/t24-;/m1./s1
